US04845219
To 90 ml of a methanol solution of sodium methoxide (1 M solution) are added 8.82 g of 3-mercaptopropanol and 1.5 g of sodium borohydride, to which a solution of 10.4 g of 2-methoxy-3-(12-cyclohexyldodecyloxy)propyl methanesulfonate in 120 ml of tetrahydrofuran is added dropwise at room temperature with stirring under nitrogen streams. The reaction mixture, after being stirred at room temperature overnight, is acidified with hydrochloric acid. The methanol is distilled off under reduced pressure and the residue is extracted with hexane. The extract layer is washed with water, dried and concentrated to leave 10.2 g of crude 2-methoxy-3-(12-cyclohexyldodecyloxy)propyl 3-hydroxypropyl sulfide. The crude sulfide is dissolved in 250 ml of dichlromethane, to which 10.0 g of m-chloroperbenzoic acid is added little by little at room temperature with stirring. After 3 hour-stirring at room temperature, the undissolved substances are removed by filtration and the filtrate is washed with an aqueous sodium hydrogensulfite solution, an aqueous sodium bicarbonate solution and water, and dried. The solvent is then distilled off under reduced pressure to leave a residue which in turn is purified by silica gel column chromatography, thereby yielding 8.9 g of the captioned compound.

reactant | sodium methoxide | 1 M | C[O-].[Na+]
reactant | 3-mercaptopropanol | 8.82 g | SCCCO | C3H8OS
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | 2-methoxy-3-(12-cyclohexyldodecyloxy)propyl methanesulfonate | 10.4 g | CS(=O)(=O)OCC(COCCCCCCCCCCCCC1CCCCC1)OC | C23H46O5S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | methanol | 90 ml | CO | CH4O
product | 2-methoxy-3-(12-cyclohexyldodecyloxy)propyl 3-hydroxypropyl sulfide | 10.2 g | OCCCSCC(COCCCCCCCCCCCCC1CCCCC1)OC | C25H50O3S
